US09259470B2
1.0M KOt-Bu (2.64 mL, 2.64 mmol) in THF and tetrabutylammonium iodide (0.0749 g, 0.203 mmol) were added to a solution of 5-iodopyridazin-3(2H)-one (0.45 g, 2.03 mmol) in THF (10 mL). The mixture was stirred at room temperature for 10 minutes before (R)-2-(tert-butyldimethylsilyloxy)-1-(4-chloro-3-fluorophenyl)ethyl methanesulfonate (1.16 g, 3.04 mmol) was added as a solution in THF (10 mL) The reaction was heated to reflux for 90 hours, then cooled to room temperature and concentrated. The residue was taken up in ethyl acetate and washed with water (2×). The organics were dried, filtered and concentrated. The crude product was purified via column chromatography, eluting with hexanes/ethyl acetate (25:1) to give (S)-2-(2-(tert-butyldimethylsilyloxy)-1-(4-chloro-3-fluorophenyl)ethyl)-5-iodopyridazin-3(2H)-one (0.65 g, 63%). 1H NMR (400 MHz, CDCl3) δ 7.98 (d, J=2.0 Hz, 1H), 7.45 (d, J=2.2 Hz, 1H), 7.35 (m, 1H), 7.23 (m, 1H), 7.16 (m, 1H), 6.09 (m, 1H), 4.34 (m, 1H), 4.01 (m, 1H), 0.81 (s, 9H), 0.01 (s, 3H), −0.01 (s, 3H).

reactant | KOt-Bu | 2.64 mmol, 1.0M, 2.64 mL | CC(C)(C)[O-].[K+]
reactant | 5-iodopyridazin-3(2H)-one | 2.03 mmol, 0.45 g | IC1=CC(NN=C1)=O | C4H3IN2O
reactant | (R)-2-(tert-butyldimethylsilyloxy)-1-(4-chloro-3-fluorophenyl)ethyl methanesulfonate | 3.04 mmol, 1.16 g | CS(=O)(=O)O[C@@H](CO[Si](C)(C)C(C)(C)C)C1=CC(=C(C=C1)Cl)F | C15H24ClFO4SSi
solvent | THF | C1CCOC1 | C4H8O
catalyst | tetrabutylammonium iodide | 0.203 mmol, 0.0749 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (S)-2-(2-(tert-butyldimethylsilyloxy)-1-(4-chloro-3-fluorophenyl)ethyl)-5-iodopyridazin-3(2H)-one | 0.65 g, 63% | [Si](C)(C)(C(C)(C)C)OC[C@H](C1=CC(=C(C=C1)Cl)F)N1N=CC(=CC1=O)I | C18H23ClFIN2O2Si
